US09403801B2
Step 3) N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine
To a suspension of tert-butyl 8-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate (0.22 g, 0.50 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (10 mL, 3.5 M). The mixture was stirred at room temperature for 1.5 h, then concentrated in vacuo. The residue was diluted with DCM (10 mL) and saturated Na2CO3 (10 mL) and then extracted with DCM/MeOH (v/v)=10/1 (30 mL×4). The combined organic layers was dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/2M NH3 in MeOH (v/v)=5/1) to give the title compound as a yellow solid (0.12 g, 70%).

reactant | tert-butyl 8-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.50 mmol, 0.22 g | CN(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C1=NC(=NC=C1)NC=1C=NN(C1)C | C23H35N7O2
reactant | HCl | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 3.5 M, 10 mL | CCOC(=O)C | C4H8O2
product | N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine | 0.12 g, 70% | CN(C1=NC(=NC=C1)NC=1C=NN(C1)C)C1CCC2(CCNC2)CC1 | C18H27N7
